US03984430
5-(4-[p-Chlorobenzyloxycarbonylamino]butyl)-3-methyl-2-thiohydantoin
Using an analogous procedure to Example 1 Nε-p-chlorobenzyloxycarbonyl-L-lysine methyl ester may be reacted with methyl isothiocyanate to give the title compound.

reactant | Nε-p-chlorobenzyloxycarbonyl-L-lysine methyl ester | COC([C@@H](N)CCCCNC(=O)OCC1=CC=C(C=C1)Cl)=O | C15H21ClN2O4
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
product | 5-(4-[p-Chlorobenzyloxycarbonylamino]butyl)-3-methyl-2-thiohydantoin | ClC1=CC=C(COC(=O)NCCCCC2C(N(C(N2)=S)C)=O)C=C1 | C16H20ClN3O3S
